US05652237
A solution of 2-iodaniline (6.0 g, 27.4 mmol) and ethyl formate (11.1 mL, 137.4 mmol) in 200 mL of THF was added dropwise to a suspension of sodium hydride (1.4 g, 34.2 mmol) in 250 mL of THF. The mixture was stirred at room temperature for 24 hours, quenched with water and extracted into ethyl acetate. The organic extract was dried (MgSO4), filtered and concentrated to give 6.3 g of crude N-formyl-2-iodoaniline as a tan solid.

reactant | 2-iodaniline | 27.4 mmol, 6.0 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | ethyl formate | 137.4 mmol, 11.1 mL | C(=O)OCC | C3H6O2
reactant | sodium hydride | 34.2 mmol, 1.4 g | [H-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | N-formyl-2-iodoaniline | 6.3 g | C(=O)NC1=C(C=CC=C1)I | C7H6INO
